Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafting x4 with the left
internal mammary artery to left anterior descending artery, and 
reverse saphenous vein graft to the posterior descending artery, 
and sequential reverse saphenous vein graft to the first and 
second obtuse marginal artery.

 
History of Present Illness:
Mr. ___ is a ___ year old man with no significant past 
medical history. Over the last year, he has noted chest 
discomfort mainly associated with eating. He will eat something 
and have significant belching. He initially attributed his 
symptoms to indigestion. Over the last several days his symptoms 
became worse and were associated with a feeling like he needs to 
take a deep breath. The discomfort was substernal and resolved 
on its own within 30 minutes. He spends half the year in ___ 
and half the year here in the ___ visiting his children. He 
just drove from ___ a few days ago (18hr journey over two 
days in the car) to visit family in ___. His 
daughter-in-law is an internist and he asked her about his 
symptoms yesterday and she said he should take a baby aspirin 
and if the pain came back he should go get checked out. His 
symptoms recurred and were associated with diaphoresis and 
nausea. He presented to the emergency department for further 
evaluation. His EKG revealed Q
waves in II/III/avF and his troponin was 1.7. He was admitted 
for further evaluation. A cardiac catheterization demonstrated 
multivessel coronary artery disease. He was referred to Dr. ___ 
___ surgical revascularization. 

 
Past Medical History:
none
 
Social History:
___
Family History:
Father - died of myocardial infarction at age ___
 
Physical Exam:
Admission Exam:

Vitals:  97.6 66 148/87 18 96%RA
General:  overweight, well appearing man in NAD
HEENT:  EOMI, no scleral icterus, MMM
Neck:  JVD 8cm
CV:  normal S1/S2, RRR, no MRG
Lungs: bibasilar crackles, normal respiratory effort 
Abdomen: +BS, soft, NTND 
GU:  deferrred
Extr:  warm, well perfused, no edema, DP pulses 2+ b/l
Neuro:  AOx3, able to move all extremities grossly, CN2-12 
grossly intact

 
Pertinent Results:
Admission Labs:

___ 08:50PM BLOOD WBC-6.9 RBC-4.29* Hgb-12.1* Hct-37.3* 
MCV-87 MCH-28.2 MCHC-32.4 RDW-13.0 RDWSD-40.3 Plt ___
___ 08:50PM BLOOD Glucose-103* UreaN-22* Creat-1.4* Na-139 
K-4.4 Cl-103 HCO3-28 AnGap-12
___ 08:50PM BLOOD cTropnT-<0.01
___ 02:47AM BLOOD cTropnT-0.21*
___ 09:38AM BLOOD CK-MB-57* cTropnT-0.43*
___ 06:55PM BLOOD cTropnT-0.88*
___ 05:35AM BLOOD CK-MB-20* cTropnT-1.20*
___ 02:45PM BLOOD CK-MB-11* cTropnT-1.42*
___ 09:30PM BLOOD CK-MB-7 cTropnT-1.72*
___ 06:00AM BLOOD cTropnT-1.77*
___ 05:35AM BLOOD Calcium-8.7 Phos-2.2* Mg-2.0
___ 07:55AM BLOOD D-Dimer-307
___ 09:38AM BLOOD %HbA1c-5.3 eAG-105
___ 09:38AM BLOOD HDL-51 CHOL/HD-3.6

Transthoracic Echocardiogram 
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
basal to mid inferior wall and mid inferolateral wall. The 
remaining segments contract normally (LVEF = 50 %). Overall left 
ventricular systolic function is low normal (LVEF 50-55%). 
Doppler parameters are most consistent with normal left 
ventricular diastolic function. The right ventricular cavity is 
mildly dilated with normal free wall contractility. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Regional left ventricular 
systolic dysfunction c/w CAD. Normal right ventricular cavity 
size and systolic function. Mild right ventricular cavity 
dilation with preserved systolic function. Mild mitral 
regurgitation. Mild ascending aorta dilation.  

Cardiac Catheterization 
Dominance: Right
The LMCA had no angiographically apparent CAD. The LAD is 
diffusely diseased with 40% stenosis and
80% stenosis after D1. The distal mid vessel segment had 80% 
stenosis. The distal LAD had mild diffuse disease. The Cx has 
Mid vessel 60% stenosis after OM1. The OM1 has proximal 50% 
stenosis
and the OM2 is small with origin 80% stenosis. The RCA had 
diffuse disease proximal 60-70% stenosis and distal 70% stenosis 
and diffuse 70-80% stenosis in the PDA. The PL is small with 
proximal 60%
stenosis.
.
TEE ___- Intra-op TEE, preliminary report:
Conclusions   
 Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. There is mild regional left 
ventricular systolic dysfunction with 50-55%. The inferior and 
inferoseptal wall is dyskinetic.. Right ventricular chamber size 
and free wall motion are normal. The right ventricular cavity is 
mildly dilated There is no aortic valve stenosis. Mild (1+) 
aortic regurgitation is seen. Mild (1+) mitral regurgitation is 
seen. There is no pericardial effusion. There is small pleural 
effusion on the left side.The htoracic aorta is normal in 
diameter.
 Post bypass
 The LVEF is 50-55%.The inferour wall is still dyskinetic. The 
right ventricular function is normal the right ventricle is 
mildly dilated.The rest of the exam is unchanged.The thoracic 
aorta is intact.    
   Interpretation assigned to ___, MD, Interpreting 
physician   
 
.

___ 07:55AM BLOOD WBC-4.4 RBC-3.04* Hgb-8.4* Hct-26.8* 
MCV-88 MCH-27.6 MCHC-31.3* RDW-13.2 RDWSD-43.0 Plt ___
___ 05:26AM BLOOD WBC-14.4* RBC-3.37* Hgb-9.4* Hct-29.2* 
MCV-87 MCH-27.9 MCHC-32.2 RDW-13.1 RDWSD-41.3 Plt ___
___ 01:03PM BLOOD ___ PTT-26.7 ___
___ 07:55AM BLOOD Glucose-112* UreaN-35* Creat-1.4* Na-141 
K-4.0 Cl-99 HCO3-32 AnGap-14
___ 04:34AM BLOOD Glucose-124* UreaN-27* Creat-1.3* Na-135 
K-4.6 Cl-99 HCO3-28 AnGap-13
 
Brief Hospital Course:
He was admitted on ___ and underwent routine preoperative 
testing and evaluation. He remained hemodynamically stable and 
was taken to the operating room on ___. He underwent 
coronary artery bypass grafting x 4. Please see operative note 
for full details. He tolerated the procedure well and was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring. 
  
 He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. He was weaned from inotropic and vasopressor 
support. Beta blocker was initiated and he was diuresed toward 
his preoperative weight. He remained hemodynamically stable and 
was transferred to the telemetry floor for further recovery. He 
was evaluated by the physical therapy service for assistance 
with strength and mobility. By the time of discharge on POD 4 he 
was ambulating, yet deconditioned, the wound was healing, and 
pain was controlled with oral analgesics. He was discharged to 
___ Rehab in good condition with appropriate follow 
up instructions.
 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
2. Aspirin EC 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Docusate Sodium 100 mg PO BID 
5. Metoprolol Tartrate 25 mg PO TID 
6. Furosemide 40 mg PO DAILY Duration: 7 Days 
7. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease

 
Discharge Condition:
Alert and oriented x3 non-focal
Ambulating, deconditioned
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
1+ edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___